Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
ERCP 

 
History of Present Illness:
HPI: ___ ___ yo woman with ___, HTN, depression, prior
choledocholithiasis s/p CCY who presented to ___
with abdominal pain found to have biliary obstruction concerning
for recurrent choledocholithiasis. 

Her symptoms began 4 days ago as pain in the RUQ with eating. 
She
felt the pain was sharp and would come and go. Yesterday the 
pain
became constant and severe. She described the pain as ___ pain
in the RUQUS. She then began to have nausea and vomited x2
prompting her to go the ___ emergency room. 

On arrival there her vitals were BP 173/80  Pulse 80  Temp 97.8
°F  Resp 18  Wt 90.7 kg (200 lb)  SpO2 96%. Her labs were
remarkable for AST 667, ALT 498, Alk Phos 215, Bili 2.1. Her WBC
was normal 8.6. She underwent a CT abdomen which showed
intrahepatic and CBD dilation. She was given 1L IVF, Zofran,
morphine, and x1 dose of zosyn. She remained afebrile there. She
was subsequently transferred to ___ for ERCP.

In the ___ ER her vitals were T 97.8, HR 80, BP 181/70, RR18,
O2Sat 97% RA. Her labs were repeated WBC 9.7, ALT 724, AST 805,
Alk Phos 264, T bili 4.1. She was admitted to medicine. 

On arrival to the floor she endorses ongoing pain. She denies 
any
fevers, chills, diarrhea.

14 Point ROS reviewed and otherwise negative.  

 
Past Medical History:
Breast cancer S/p Mastectomy 
Cervical cancer s/p hysterectomy 
___ 
___ 
HTN 

 
Social History:
___
Family History:
Multiple brothers with cancer, unsure which kind.
Her niece died from brain cancer
 
Physical Exam:
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

 
Pertinent Results:
Admission Labs 

___ 04:56AM BLOOD WBC-9.7 RBC-5.13 Hgb-14.0 Hct-42.7 MCV-83 
MCH-27.3 MCHC-32.8 RDW-12.8 RDWSD-38.9 Plt ___
___ 04:56AM BLOOD ___ PTT-24.2* ___
___ 04:56AM BLOOD Glucose-129* UreaN-7 Creat-0.8 Na-134* 
K-4.1 Cl-96 HCO3-20* AnGap-18
___ 04:56AM BLOOD ALT-724* AST-805* AlkPhos-264* 
TotBili-4.1*
___ 04:56AM BLOOD cTropnT-<0.01
___ 06:50PM BLOOD cTropnT-<0.01
___ 04:56AM BLOOD Albumin-4.6
___ 06:32AM BLOOD Calcium-9.6 Phos-3.9 Mg-2.0
___ 05:08AM BLOOD Lactate-1.6

US Liver 
IMPRESSION:  
  
Dilated common bile duct measuring up to 12 mm, with suggestion 
of minimal 
central intrahepatic biliary ductal dilation.  CBD was noted to 
taper 
gradually toward the major papilla on the prior outside hospital 
CT.  No 
obstructing stone or mass seen, however note that the very 
distal CBD is not 
well-seen by ultrasound.  recommend MRCP for further assessment. 


ERCP: 

ERCP: 
Multiple non-bleeding < 1 mm duodenal ulcers noted.  CBD dilated
to 15 mm.  Severe intrahepatic ductal dilation with smooth
tapering at the ampulla.  Sphincterotomy performed.  Minimal
sludge removed.  Cytology brushings and stent placement
performed.

Discharge Labs
___ 06:09AM BLOOD WBC-10.0 RBC-4.42 Hgb-12.0 Hct-37.5 
MCV-85 MCH-27.1 MCHC-32.0 RDW-13.0 RDWSD-40.4 Plt ___
___ 06:32AM BLOOD ___
___ 06:09AM BLOOD Plt ___
___ 06:09AM BLOOD Glucose-70 UreaN-11 Creat-0.6 Na-140 
K-3.7 Cl-99 HCO3-26 AnGap-15
___ 06:09AM BLOOD ALT-348* AST-139* AlkPhos-213* 
TotBili-1.0
___ 06:50PM BLOOD Calcium-9.6 Phos-4.1 Mg-2.3
 
Brief Hospital Course:
___ ___ yo woman with ___, HTN, depression, prior
choledocholithiasis s/p CCY who presented to ___
with abdominal pain found to have biliary obstruction concerning
for recurrent ___ transferred to ___ for ERCP 
now s/p plastic stent. 

#Elevated LFTS 
#Choledocholithiasis
#Abdominal Pain 
Patient presenting with severe abdominal pain labs c/w
obstruction. CT with evidence of biliary dilation. She was 
initially started empirically on ciprofloxacin for cholangitis. 
She underwent ERCP which showed Multiple non-bleeding < 1 mm 
duodenal ulcers. CBD dilated
to 15 mm.  Severe intrahepatic ductal dilation with smooth
tapering at the ampulla.  Sphincterotomy was performed.  Minimal
sludge removed.  Cytology brushings and stent placement
performed. There was no clear cause of the dilation. Plastic 
stent was placed and will need to be removed in ___ weeks by GI. 
Given they saw no pus or signs of infection ciprofloxacin was 
stopped. Her LFTs were trending towards normal and her bilirubin 
was 1.0 on discharge. She will need follow up with her primary 
care doctor. Her pain had completely resolved on discharge.  
[] F/u Brushings from ERCP 
[] F/u with GI in ___ weeks for stent removal 

#Hyponatremia 
resolved with fluids 

#Hypertension 
Home lisinoipril 

#ADHD 
home Adderall confirmed with ___ 

>30 minutes spent on discharge activity
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
2. Famotidine 20 mg PO BID 
3. Lisinopril 40 mg PO DAILY 
4. Ranitidine 150 mg PO DAILY 

 
Discharge Medications:
1.  Amphetamine-Dextroamphetamine XR 30 mg PO DAILY  
2.  Famotidine 20 mg PO BID  
3.  Lisinopril 40 mg PO DAILY  
4.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary Obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted when you began to have abdominal pain at home. 
You were found to have obstruction of your bile duct. You were 
sent to ___ for a special procedure called ERCP (Endoscopic 
retrograde cholangiopancreatography). You underwent this 
procedure without complication. During the procedure a stent was 
placed in the bile duct. It is unclear what caused the 
obstruction. You will need the stent removed in ___ weeks. 
Gastroenterology will call you to make an appointment. Please 
avoid all NSAIDS like aspirin and ibuprofen for a week. 

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___